US05021431
N-(2-Hydroxy-3-phenoxypropyl)-N'[3-(imidazol-4-yl)propyl]-guanidine
0.5 g (1.2 mmol) of N-benzoyl-N'-(2-hydroxy-3-phenoxypropyl)-N"-[3-(imidazol-4-yl)propyl]-guanidine are heated under reflux in 30 ml of 20% hydrochloric acid for 6 hours. The reaction mixture is worked up by a method analogous to that of Example 4. The dihydrochloride crystallises from isopropyl alcohol/acetone in the form of colourless crystals melting at 165°-166° C.

reactant | N-benzoyl-N'-(2-hydroxy-3-phenoxypropyl)-N"-[3-(imidazol-4-yl)propyl]-guanidine | 1.2 mmol, 0.5 g | C(C1=CC=CC=C1)(=O)NC(=NCCCC=1N=CNC1)NCC(COC1=CC=CC=C1)O | C23H27N5O3
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | N-(2-Hydroxy-3-phenoxypropyl)-N'[3-(imidazol-4-yl)propyl]-guanidine | OC(CNC(=N)NCCCC=1N=CNC1)COC1=CC=CC=C1 | C16H23N5O2
